US05610144
The operation is carried out in a fashion similar to that described in Example 9, but starting from 1.1 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-ethoxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-prolinate in solution in 30 cm3 of methanol and 0.12 g of potassium hydroxide dissolved in 15 cm3 of water. After treatment and recrystallization in diisopropyl ether, 0.4 g of (2RS,5SR)-3-{3-{2-[2-tert-butoxy-carbonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid, melting at 180° C., is obtained.

reactant | tert-butyl (2RS,5SR)-1-{2-[3-(3-ethoxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-prolinate | 1.1 g | C(C)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=C(C=CC=C1)F)=O | C27H32FN3O6
reactant | potassium hydroxide | 0.12 g | [OH-].[K+]
reactant | methanol | 30 cm3 | CO | CH4O
solvent | water | 15 cm3 | O | H2O
product | (2RS,5SR)-3-{3-{2-[2-tert-butoxy-carbonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.4 g | C(C)(C)(C)OC1N(C(CC1=C=O)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C25H26FN3O6
